US09403833B2
Step 1: N-(2-Cyclopropyl-4-fluorophenyl)acetamide
A mixture comprising N-(2-bromo-4-fluorophenyl)acetamide (1 g, 4.31 mmol), cyclopropylboronic acid (0.481 g, 5.60 mmol), tricyclohexylphosphine (0.121 g, 0.431 mmol), potassium phosphate (tribasic) (3.20 g, 15.08 mmol), toluene (10 ml) and water (10 ml) was equally divided between two 10-20 ml microwave tubes. Each reaction tube was sealed, evacuated and filled with nitrogen (3×) and placed in the microwave at 100° C. for 6 hrs. The contents of the vials were combined, diluted with EtOAc and the layers separated. The organic extracts were washed with water (2×), dried over MgSO4, filtered and concentrated under reduced pressure to give the title compound as a brown solid. The product was used crude in the next step.

reactant | N-(2-bromo-4-fluorophenyl)acetamide | 4.31 mmol, 1 g | BrC1=C(C=CC(=C1)F)NC(C)=O | C8H7BrFNO
reactant | cyclopropylboronic acid | 5.60 mmol, 0.481 g | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 0.431 mmol, 0.121 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 15.08 mmol, 3.20 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | water | 10 ml | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-Cyclopropyl-4-fluorophenyl)acetamide | C1(CC1)C1=C(C=CC(=C1)F)NC(C)=O | C11H12FNO
